US07135479B2
3-(1-Benzhydryl-azetidin-3-ylmethyl)-1H-indole-5-carbonitrile
A solution of 3-[(1 -benzhydryl-azetidin-3-yl)-methoxy-methyl]-1H-indole-5-carbonitrile, triethylsilane (5.5 ml, 34 mmol) and trifluoroacetic acid (6.6 mL, 86 mmol) in methylene chloride (40 mL) was refluxed overnight. The reaction was poured into ice and neutralized with concentrated ammonium hydroxide. The mixture was extracted with methylene chloride (3×100 mL). The organic layer was washed with water (3×80 mL), dried over anhydrous sodium sulfate, filtered and solvent removed under vacuum. The crude oil was column chromatographed on a Biotage (40% ethyl acetate-hexane/hexane). The product-containing fractions were concentrated under vacuum to give 0.56 g (86%) of the title compound as a clear oil. MS ES m/e 378 (M+H)+; 1H NMR (500 MHz, DMSO-D6): 2.74–2.78 δ (M, 3H), 2.96 δ (d, J=6.7 Hz, 2H), 3.21 δ (t, J=6.4 Hz, 2H), 4.4 δ (s, 1H), 7.15–7.17 δ (m, 2H), 7.24–7.29 δ (m, 5H), 7.38–7.418 δ (m, 5H), 7.47 δ (d, J=8.4 Hz, 1H), 8.07 δ (s, 1H), 11.37 δ (br, 1H).

reactant | 3-[(1 -benzhydryl-azetidin-3-yl)-methoxy-methyl]-1H-indole-5-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(C1=CNC2=CC=C(C=C12)C#N)OC | C27H25N3O
reactant | triethylsilane | 34 mmol, 5.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 86 mmol, 6.6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-Benzhydryl-azetidin-3-ylmethyl)-1H-indole-5-carbonitrile | 0.56 g, 86% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)CC1=CNC2=CC=C(C=C12)C#N | C26H23N3
